US08278282B2
To a cold (−78° C.) solution of (2R,3R,4R,5R)-2-(4-Chloro-pyrrolo[2,3-d]pyrimidin-7-yl)-4-(2,4-dichlorobenzyloxy)-5-(2,4-dichlorobenzyloxymethyl)-3-ethynyl-tetrahydrofuran-3-ol I-5 (150 mg, 0.24 mmol, 1 equiv.) in dry DCM (20 ml) is added 1M solution of BCl3 in DCM (2.4 ml, 2.4 mmol, 10 equiv.) drop-wise and stirred at −78° C. for about 5 h. The reaction mixture is quenched with MeOH (15 mL) at 0° C. and stirred for 30 min. Solvent is evaporated and dried together with silica gel (4 ml), the crude product on silica gel is purified by flash chromatography (DCM:methanol=90:10) to give (2R,3R,4R,5R)-2-(4-Chloro-pyrrolo[2,3-d]pyrimidin-7-yl)-3-ethynyl-5-hydroxymethyl-tetrahydrofuran-3,4-diol I-6 as a brown foam.

reactant | (2R,3R,4R,5R)-2-(4-Chloro-pyrrolo[2,3-d]pyrimidin-7-yl)-4-(2,4-dichlorobenzyloxy)-5-(2,4-dichlorobenzyloxymethyl)-3-ethynyl-tetrahydrofuran-3-ol | ClC=1C2=C(N=CN1)N(C=C2)[C@@H]2O[C@@H]([C@H]([C@]2(O)C#C)OCC2=C(C=C(C=C2)Cl)Cl)COCC2=C(C=C(C=C2)Cl)Cl | C27H20Cl5N3O4
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 2.4 mmol, 2.4 ml, 10 equiv. | C(Cl)Cl | CH2Cl2
product | (2R,3R,4R,5R)-2-(4-Chloro-pyrrolo[2,3-d]pyrimidin-7-yl)-3-ethynyl-5-hydroxymethyl-tetrahydrofuran-3,4-diol | ClC=1C2=C(N=CN1)N(C=C2)[C@@H]2O[C@@H]([C@H]([C@]2(O)C#C)O)CO | C13H12ClN3O4
